Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Acrylic Acid / lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with DM, HTN, ___ edema who presents with episode of chest 
pain. Patient experienced episode of "chest pressure" yesterday 
when she was lifting 2 bags of salt. Chest pressure was 
nonradiating and was accompanied with lightheadedness, SOB,  and 
feelings of anxiety. The CP began subsiding by itself and was 
further relieved when paramedics gave patient SL NTG and O2. 
Also received ASA 325 on scene. Patient reported that BP when 
paramedics arrived was 220/110. Patient has had brief episodes 
of chest pain recently associated with stress, but states 
current episode was different lasting longer at 15 minutes. Of 
note patient has also had some muscle straining on left side and 
currently states she continues to have this muscle pain.  

Patient denies any fevers, chills, nausea, vommiting. She had 
chronic DOE with no changes recently. She sleep on ___ pillows 
with no recent changes. No recent illnesses.  No recent trauma. 
Reports she has not been taking any medications except atenolol 
and furosemide as prescribed because of angioedema/tongue 
swelling to lisinopril in ___.
 
At present patient is comfortable and asymptomatic.

ED Course (labs, imaging, interventions, consults): 
initial vitals: 98.8 64 141/72 20 98% 
- Labs were significant for negative troponins x2. Patient was 
given ASA and BB, nebulizer treatment, and total of 30 po 
prednisone.

Patient was supposed to have stress in am on ___ but could 
not go secondary to wheezing and SOB. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes,+Hypertension  
2. CARDIAC HISTORY:  
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:none  
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:  
Morbid obesity, anemia of chronic disease
OSA not using CPAP, Pulmonary Hypertension,
Chronic Back Pain Chronic knee pain,
Cholecystitis s/p cholecystectomy, history of HEP A?, asthma, 
Fibroid Uterus
 
Social History:
___
Family History:
NO early cardiac disease. Negative for CAD
 
Physical Exam:
ADMISSION:
VS: T=98.5 BP=135/60 HR= 64 RR= 18 O2 sat= 94 RA
Weight : 120.1 kg admission 
GENERAL:NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with JVP flat.   
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS:  Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi. Reproducible Left chest pain on 
palpation at left lower ribcage.  
ABDOMEN: Obese. Soft, NTND.   
EXTREMITIES: Trace pedal edema   
PULSES:  
Right: Carotid 2+  DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+ 

DISCHARGE:
VS: T=98.2 BP=132-135/54-60 HR= ___ RR= 18 O2 sat= 94 RA
Weight : 120.4 --< admission 120.1 kg admission 
GENERAL:NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple with JVP flat.   
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS:  Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi. 
ABDOMEN: Obese. Soft, NTND.   
EXTREMITIES: No pedal edema   
PULSES:  
Right: Carotid 2+  DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 11:25PM URINE  HOURS-RANDOM
___ 11:25PM URINE  GR HOLD-HOLD
___ 11:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-NEG
___ 11:25PM URINE  RBC-0 WBC-2 BACTERIA-MOD YEAST-NONE 
EPI-2
___ 11:25PM URINE  MUCOUS-OCC
___ 08:05PM   GLUCOSE-218* UREA N-13 CREAT-0.6 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-29 ANION GAP-17
___ 08:05PM   estGFR-Using this
___ 08:05PM   cTropnT-<0.01
___ 08:05PM   WBC-9.3 RBC-4.75 HGB-12.1 HCT-39.2 MCV-83 
MCH-25.4* MCHC-30.8* RDW-12.8
___ 08:05PM   NEUTS-64.6 ___ MONOS-3.2 EOS-2.4 
BASOS-0.6
___ 08:05PM   PLT COUNT-304

CXR ___
The heart size is normal.  Mediastinal and hilar contours are 
unchanged. 
Pulmonary vascularity is normal.  Except for subsegmental 
atelectasis in the lingula, lungs are clear.  No pleural 
effusion or pneumothorax is present. Clips are seen in the right 
upper quadrant of the abdomen.  No acute osseous abnormalities 
are identified.
 
IMPRESSION:
No acute cardiopulmonary process.

STRESS ECHO ___
The patient exercised for 9 minutes and 0 seconds according to a 
Gervino treadmill protocol ___ METS) reaching a peak heart rate 
of 102 bpm and a peak blood pressure of 170/80 mmHg. The test 
was stopped because of fatigue. This level of exercise 
represents a poor exercise tolerance for age. The exercise ECG 
was uninterpretable due to resting ST-T wave changes (see 
exercise report for details). There is resting systolic 
hypertension. The blood pressure response to stress was blunted. 
There was a blunted heart rate response to stress [beta 
blockade].

Resting images were acquired at a heart rate of 56 bpm and a 
blood pressure of 162/90 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated mild mitral regurgitation with no 
aortic stenosis, aortic regurgitation or significant resting 
LVOT gradient. There is borderline pulmonary artery systolic 
hypertension. Echo images were acquired within 43 seconds after 
peak stress at heart rates of 92 - 80 bpm. These demonstrated 
appropriate augmentation of all left ventricular segments. There 
was augmentation of right ventricular free wall motion.

IMPRESSION: Poor functional exercise capacity. Uninterpretable 
ECG changes in the absence of 2D echocardiographic evidence of 
inducible ischemia to achieved low workload. Mild mitral 
regurgitation at rest. 

___ STRESS
This ___ y.o. IDDM woman with h/o HTN was referred to 
the lab for evaluation of chest pain and dyspnea. The patient 
exercised 
for 9.0 minutes of a Gervino protocol (~ ___ METS), representing 
a poor 
exercise tolerance for her age. The test was stopped due to 
fatigue. 
At minute 7 of exercise, the patient noted ___ non-progressive 
left 
sided chest heaviness. This discomfort improved with deep 
inspiration 
and resolving quickly in recovery by minute 1.25. At peak 
exercise, 
there was non-specific T wave normalization was noted. The T 
waves 
returned to baseline in recovery. The rhythm was sinus with 
rare, 
isolated apbs, frequent, polymorphic vpbs, and several 
ventricular 
couplets throughout the study. Baseline systolic hypertension 
with an 
initial drop in systolic blood pressure during exercise. 
Appropriate increase in blood pressure response to exercise as 
it 
continued but the overall response was blunted. Blunted heart 
rate 
response to exercise in the presence of beta blocker therapy. 
  
IMPRESSION: Poor exercise capacity. Atypical anginal type 
symptoms with 
uninterpretable ECG changes to achieved low workload. Resting 
systolic hypertension with abnormal blood pressure and blunted 
heart 
rate response to exercise. Echo report sent separately. 

 
 
Brief Hospital Course:
___ with DM, HTN, ___ edema presented to ED with Chest Pain. 
Chest pain was exertional in nature and raised concern for 
unstable angina. Initial troponins x2 in ED were negative. EKG 
with no acute ischemic changes. Chest pain may have been 
muscular in origin or associated with anxiety at the time, given 
patient's known history of panic attacks. Given patient's risk 
factors she underwent a stress test on ___ which showed 
nonspecific ECG changes in the absence of 2D echo evidence of 
inducible ischemia. ___ hospital course is summarized by 
problems below:

#Chest Pain: Patient presents with exertional chest pain that 
raised concern for unstable angina. Initial troponins x 2 
negative along with no EKG changes.Third troponin also returned 
negative. Stress was done on ___ which showed nonspecific 
ECG changes in the absence of 2D echo evidence of inducible 
ischemia.LVEF greater than 60%. Reached METS of 4.8 on stress. 
Patient was medically treated on aspirin 81. Home atenolol was 
discontinued and patient was started on losartan 25 daily during 
this hospitalization. PCP was notified prior to discharge and 
will monitor blood pressure on discharge. 

#HTN:SBP in th 130's. HTN was controlled with home dose of lasix 
and losaratan 25 daily. Atenolol was discontinued.

# DM: Hg A1C was 8.6 on ___. Patient's oral hypoglycemics 
were held during hospitalization. Blood sugars were controlled 
with ISS.

#OSA- Patient with history of OSA, not using CPAP. Oxygen 
saturations were apporpriately monitored with vitals.

#Asthma-  Patient was wheezing on presentation to the ED and was 
treated with nebulizers and po prednisone. No further episodes 
of wheezing. Continued albuterol and symbicort.

Patient was full code during this hospitalization.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Atenolol 25 mg PO DAILY 
hold for sbp less than 90 or hr less than 55 
3. Symbicort *NF* (budesonide-formoterol) 80-4.5 mcg/actuation 
Inhalation daily 
2 puffs once a day 
4. Furosemide 40 mg PO DAILY 
5. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush 
6. Aspirin 81 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. biotin *NF* unknown  Oral daily 
9. multivitamin *NF* unknown  Oral daily 
10. HumaLOG *NF* (insulin lispro) 50   Subcutaneous q am 
11. HumaLOG *NF* (insulin lispro) 45  Subcutaneous qpm 
12. Vitamin D ___ UNIT PO DAILY 
13. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Furosemide 40 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. HumaLOG *NF* (insulin lispro) 50   Subcutaneous q am 
9. HumaLOG *NF* (insulin lispro) 45 45 SUBCUTANEOUS QPM 
10. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush 
11. multivitamin *NF* 1 pill ORAL DAILY 
12. Symbicort *NF* (budesonide-formoterol) 80-4.5 mcg/actuation 
Inhalation daily 
2 puffs once a day 
13. biotin *NF* 1 vitamin ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Chest Pain
Secondary: Diabetes, Hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you during your most recent 
hospitalization. You were admitted for chest pain. You underwent 
a cardiac stress test which showed was normal. Your blood 
pressure medication was changed- atenolol was stopped and you 
were started on losartan.

Please take all of your medications as prescribed and followup 
with your physician ___.
 
Followup Instructions:
___